US08097628B2
An orange solution of tributyl(vinyl)tin (0.359 ml, 1.227 mmol), bis(triphenylphosphine)palladium(II) chloride (43.1 mg, 0.061 mmol), and 3,6-dichloro-4-methylpyridazine (200 mg, 1.227 mmol) in DMF (2 ml) was stirred at room temperature under argon overnight. Some starting material was still present so it was stirred at room temperature all the weekend. No further evolution was observed. KF (80 mg, 1.377 mmol), TBME (4 ml) and water (4 ml) were added and the mixture was stirred at room temperature for 30 min. The solids were filtered off. Extraction, drying (MgSO4), filtration, and concentration afforded 437.7 mg of crude material. Purification by flash chromatography using Flashmaster II, a 20 g Merck gel cartridge, and mixtures of hexane and EtOAc (0-30%) as eluant afforded 3-chloro-6-ethenyl-4-methylpyridazine (34.8 mg, 18%), as white solid.

reactant | tributyl(vinyl)tin | 1.227 mmol, 0.359 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | 3,6-dichloro-4-methylpyridazine | 1.227 mmol, 200 mg | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
reactant | KF | 1.377 mmol, 80 mg | [F-].[K+]
reactant | TBME | 4 ml | CC(C)(C)OC | C5H12O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.061 mmol, 43.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 4 ml | O | H2O
product | 3-chloro-6-ethenyl-4-methylpyridazine | 34.8 mg, 18% | ClC=1N=NC(=CC1C)C=C | C7H7ClN2
